US07053088B2
4-Methyl-7-{[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amino}quinolin-2-ol, hydrochloride.
Analogous to the procedure used to prepare Example 5(b), 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine, Example 5(a), (150 mg, 0.58 mmol) and carbostyril 124 (50 mg, 0.29 mmol, Aldrich) afforded, after recrystallization from MeOH, the title product as bright-yellow crystals. MP: 373° C. (with decomposition). MS (ESI, pos. ion) m/z: 397 (M+1).

reactant | 4-chloro-6-(4-trifluoromethylphenyl)pyrimidine | ClC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | carbostyril 124 | 0.29 mmol, 50 mg | CC1=CC(=O)NC2=C1C=CC(=C2)N | C10H10N2O
product | 4-Methyl-7-{[6-(4-trifluoromethylphenyl)pyrimidin-4-yl]amino}quinolin-2-ol, hydrochloride | Cl.CC1=CC(=NC2=CC(=CC=C12)NC1=NC=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)O | InChI=1S/C21H15F3N4O.ClH/c1-12-8-20(29)28-18-9-15(6-7-16(12)18)27-19-10-17(25-11-26-19)13-2-4-14(5-3-13)21(22,23)24;/h2-11H,1H3,(H,28,29)(H,25,26,27);1H
